US05047411
A solution of 2-amino-6-ethoxycarbonylbenzoxazole (14.3 g) in tetrahydrofuran (570 ml) was dropwise added to a mixture of lithium aluminum hydride (7.9 g) in tetrahydrofuran (300 ml) at -30° C. to -20° C. for 35 minutes, and the mixture was stirred for 75 minutes at the same temperature. To the reaction mixture was dropwise added a mixture of water (3 ml) and tetrahydrofuran (3 ml), and the mixture of ethyl acetate and water was added to a resulting mixture. The mixture was adjusted to pH 7 with 6N-hydrochloric acid and the isolated precipitate was removed by filtration. The separated organic layer from filtrate was washed with brine and dried over magnesium sulfate. Evaporation of a solvent gave a residue, which was purified by a column chromatography on silica gel eluting with a mixture of chloroform and methanol (9:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo to give 2-amino-6-hydroxymethylbenzoxazole (5.77 g).

reactant | 2-amino-6-ethoxycarbonylbenzoxazole | 14.3 g | NC=1OC2=C(N1)C=CC(=C2)C(=O)OCC | C10H10N2O3
reactant | lithium aluminum hydride | 7.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 570 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 3 ml | O | H2O
product | 2-amino-6-hydroxymethylbenzoxazole | 5.77 g | NC=1OC2=C(N1)C=CC(=C2)CO | C8H8N2O2
